US06936612B2
To a solution of 8-cyclopentyl-6-(1-ethoxy-vinyl)-2-(4-hydroxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (255 mg, 0.52 mmol) in chloroform (2 mL) was added hydrogen chloride (2 M ethereal solution, 5.0 mL, 10.0 mmol). The reaction mixture was stirred at RT for 12 h. The solvents were evaporated and the residue was dissolved in ethanol. The ethanol was evaporated to give 6-acetyl-8-cyclopentyl-2-(4-hydroxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (213 mg, 0.46 mmol). MS (APCI+) 463 (M+1, 100); 1H NMR δ(400 MHz, DMSO-d6) 10.90 (br, 1H), 9.07 (s, 1H), 8.19 (s, 1H), 7.91 (br, 2H), 5.91-5.89 (m, 1H), 3.77 (br, 1H), 3.62 (br, 2H), 3.07 (br, 2H), 2.58 (s, 3H), 2.40 (s, 3H), 2.30 (br, 2H), 1.98-1.86 (m, 5H), 1.65 (br, 4H); Anal. Calc'd for C25H30N6O3, 1.76 C3H8O1, 0.36 CHCl3: C, 60.20; H, 7.33; N, 13.75. Found: C, 60.48; H, 6.97; N, 13.35.

reactant | 8-cyclopentyl-6-(1-ethoxy-vinyl)-2-(4-hydroxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.52 mmol, 255 mg | C1(CCCC1)N1C(C(=C(C2=C1N=C(N=C2)NC2=CC=C(C=N2)N2CCC(CC2)O)C)C(=C)OCC)=O | C27H34N6O3
reactant | hydrogen chloride | 10.0 mmol, 2 M, 5.0 mL | Cl | ClH
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-acetyl-8-cyclopentyl-2-(4-hydroxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.46 mmol, 213 mg | C(C)(=O)C1=C(C2=C(N=C(N=C2)NC2=CC=C(C=N2)N2CCC(CC2)O)N(C1=O)C1CCCC1)C | C25H30N6O3
